US03998958
To a stirring solution of 6.73 g. (0.05 mole) of 1-methyl- 2-iminopyrrolidine hydrochloride in about 2 ml. of water is added about 50 ml. of benzene followed by 10 ml. of 50% NaOH. After stirring 1 min. the benzene layer is decanted onto anhydrous potassium carbonate. The extraction is repeated twice. The combined benzene extracts are filtered from a drying agent (dicalite pad) and rinsed well with dry benzene. To the filtrate is added in one portion with stirring 7.36 g. (0.05 mole) of 2,6-dimethylphenylisocyanate. The reaction mixture is stirred overnight. Solvent removal and recrystallization from ethyl acetate-ether gives the product, 1-(2,6 -dimethylphenyl)-3-(1-methyl-2-pyrrolidylidene)urea, as white crystals, m.p. = 119°-120° C.

reactant | 1-methyl- 2-iminopyrrolidine hydrochloride | 0.05 mole | Cl.CN1C(CCC1)=N
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | 2,6-dimethylphenylisocyanate | 0.05 mole | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(2,6 -dimethylphenyl)-3-(1-methyl-2-pyrrolidylidene)urea | CC1=C(C(=CC=C1)C)NC(=O)N=C1N(CCC1)C | C14H19N3O
